Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE
Date: ___
Time: ___

PCP: ___: ___
Address: ___
Phone: ___
Fax: ___

History obtained with the help of his dtr ___ who translates 
for him.

HPI: 
___ ___ male with h/o ruptured ulcer presents with 
syncopal episode. He ate yams around 6 pm and then he ate rice 
and fish at 830 and then shortly after experienced stomach 
burning, He then felt very tired like he was falling asleep as 
though he was going to pass out. His dtr sat him down on the 
chair. He slipped out of the chair and his dtr caught him. His 
dtr laid him on the floor. No headstrike or injury. He lost 
consciousness. His dtr started CPR and he woke up and then 
vomited and then he had anepisode of loose stool. He then asked 
his dtr to call ___. On EMS arrival was hypotensive to SBP ___.
Prior to this he went to gymn and felt well.  He also admits to 
not drinking a lot of water and he also was in the sauna for 20 
mins. He returned from the gym at 1200 and he ate lunch. His 
family said he ate lunch well. He denies chest pain, shortness 
of breath, diaphoresis, fevers, chills. After lunch he took a 
nap. He reports feeling completely well prior to this.

He returned from ___ by car on ___. He was very busy unpacking 
from his trip so he didn't drink as much water as he would 
normally would. 
During the encounter he reports ___ periumbilical burning pain 
which he has intermittently triggered by eating sour and salty 
foods. Drinking water improves the pain. He reports L hand 
tingling worse with using his hand. 

He had an episode of syncope at a friend's house in ___ 
and regained consciousness. He reluctantly went in an ambulance 
and was evaluated by he was discharged. He felt well after. His 
family was surprised when he asked them to call ___.

In ER: (Triage Vitals:0 |96.2 |57 |127/73 |18 |95% RA  ) 
Meds Given:
___ 23:25 IVF 1000 mL NS 1000 mL ___  
___ 01:11 IV Morphine Sulfate 4 mg ___ 
 
Fluids given: Radiology Studies: multiple, consults called.

PAIN SCALE: ___ periumbilical abdominal burning but he looks as 
though he is very uncomfortable.  10-point ROS otherwise 
negative except as noted above.

 
Past Medical History:
H/o perforated ulcer in ___
H/o colon polyps
H/o surgery to remove polyps from his neck 
 
Social History:
___
Family History:
His mother died in childbirth at age ___ from hemorrhage. His 
father died from a cyst on his thyroid at age ___. All of his 
brothers and sisters are alive and in good health. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Orthostatic VS: Laying 115/71, 79 / Sitting 105/69, 80 / 
Standing 117/71, 77
Vitals:  T 97.7 P 66 BP 121/73  RR 16  SaO2 99% on RA
GEN: Fit but tired appearing male who is often moaning in pain
HEENT: ncat anicteric MMM
NECK:  supple
CV: s1s2 rr no m/r/g
RESP: b/l ae no w/c/r
ABD: +bs, soft, NT, ND, no guarding or rebound, pain is not 
worse with palpation ("Its burning inside"
EXTR:no c/c/e 2+pulses
DERM: no rash
NEURO: face symmetric speech fluent
PSYCH: calm, cooperative but he is very sleepy

DISCHARGE PHYSICAL EXAM:
VS: T98.6 BP 134/73 P72 RR18 O2 sat 99%RA
Gen: well appearing, elderly male resting in bed, appears 
younger
than stated age, NAD
HEENT: anicteric, MMM, NCAT
CV: RRR, no murmur, rubs or gallops
Pulm: CTAB, no wheezing, rales, or rhonchi
Abd: soft, NT/ND, +BS, no rebound or guarding
Ext: no edema
Skin: warm, dry
Neuro: fluent speech, strength grossly normal, gait wnl
Psych: calm, appropriate
 
Pertinent Results:
ADMISSION LABS:
___ 01:16AM URINE  HOURS-RANDOM
___ 01:16AM URINE  UHOLD-HOLD
___ 01:16AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:16AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:57PM   LACTATE-2.2*
___ 10:50PM   GLUCOSE-135* UREA N-23* CREAT-1.1 SODIUM-139 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
___ 10:50PM   estGFR-Using this
___ 10:50PM   ALT(SGPT)-27 AST(SGOT)-24 CK(CPK)-118 ALK 
PHOS-52 TOT BILI-0.2
___ 10:50PM   LIPASE-37
___ 10:50PM   cTropnT-<0.01
___ 10:50PM   CK-MB-3
___ 10:50PM   ALBUMIN-4.1 CALCIUM-8.9 PHOSPHATE-3.6 
MAGNESIUM-2.2
___ 10:50PM   WBC-7.9 RBC-5.18 HGB-13.5* HCT-40.9 MCV-79* 
MCH-26.1 MCHC-33.0 RDW-13.7 RDWSD-39.2
___ 10:50PM   NEUTS-62.3 ___ MONOS-8.3 EOS-1.1 
BASOS-0.6 IM ___ AbsNeut-4.89 AbsLymp-2.09 AbsMono-0.65 
AbsEos-0.09 AbsBaso-0.05
___ 10:50PM   PLT COUNT-192
___ 10:50PM   ___ PTT-26.3 ___
=================================
___ CTA CHEST:
IMPRESSION:
1.  No evidence of pulmonary embolism or acute aortic 
abnormality.
2.  Numerous scattered pulmonary nodules measuring up to 1 cm in 
the right middle lobe.
3.  Please refer to the report of the CT abdomen and pelvis from 
earlier today for full description of subdiaphragmatic findings.
RECOMMENDATION(S):  A followup chest CT in 6 months to assess 
stability of right middle lobe pulmonary nodules may be 
considered as per ___ guidelines.
================================
___ CT ABDOMEN WITH IV CONTRAST
IMPRESSION:
1. No evidence of abdominal aortic aneurysm.
2.  Very limited view of the lung bases demonstrate nonocclusive 
filling defects in the peripheral vasculature of the right lower 
lobe.  Although this could represent mixing of contrast and 
noncontrast opacified blood in pulmonary veins, pulmonary 
embolism cannot be excluded and dedicated CTA of the chest is 
recommended if there is clinical suspicion.
3.  Multiple pulmonary nodules at the lung bases for which a 
subsequent chest CT was performed.
4.  Nonaggressive lucent lesion in the left proximal femur with 
a sclerotic rim should be correlated with plain radiographs.
RECOMMENDATION(S):  Plain radiographs of the left femur for 
better visualized lesion of the above described lesion.
================================
___ CT HEAD
IMPRESSION:
No evidence of hemorrhage or infarction
================================
___ PA/LAT CXR
IMPRESSION:
No evidence of free air under the hemidiaphragm. 
================================
___ Left Hip X-ray: ???? - PENDING READ
================================
___ ECG: SR at 61 bpm. No concerning ST-T segments for 
active ischemia or infarct

___ 07:10AM BLOOD WBC-8.6 RBC-4.94 Hgb-12.9* Hct-38.7* 
MCV-78* MCH-26.1 MCHC-33.3 RDW-13.9 RDWSD-39.3 Plt ___
___ 07:10AM BLOOD Glucose-101* UreaN-14 Creat-1.1 Na-141 
K-3.9 Cl-106 HCO3-26 AnGap-13
___ 10:50PM BLOOD ALT-27 AST-24 CK(CPK)-118 AlkPhos-52 
TotBili-0.2
___ 07:10AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.0 Iron-158
___ 07:10AM BLOOD calTIBC-315 Ferritn-54 TRF-___ year old male with h/o perforated ulcer who presents with 
syncopal episode and intermittent abdominal burning.

SYNCOPE: likely vasovagal in response to pain. EKG was 
unremarkable and pt was monitored on telemetry with no 
concerning alarms.  Troponin's were negative on serial checks.  
CTA performed on admission was negative for PE or dissection and 
orthostatic taken after IVF were negative.  Patient was 
discharged home to discuss need for TTE with PCP.

ABDOMINAL PAIN: 
Distant history of perforated ulcer.  His symptoms are 
consistent with reflux disease and possibly PUD.  Symptoms have 
resolved quickly and he is tolerating PO well.  He was started 
on PPI and given a GI cocktail.  Suggested by patient have H. 
pylori performed as an outpatient.

Microcytic anemia
Mild anemia.  Reports C-scope within the last ___ years, but 
unclear of results.  Iron panel checked while inpatient was 
normal.  Would also consider alpha thalassemia given his Asian 
ethnicity.  Hgb remained stable while in-patient, can consider 
Hgb electropheresis

Left hand tingling
Intermittent, positional.  No neck pain.  No weakness.  Suspect 
peripheral neuropathy, possibly carpal tunnel.  Unlikely 
cervical radiculopathy.  CT head without evidence of acute 
stroke.  Pt is retired ___, at risk for repetitive use 
injury.  Can be followed as an outpatient

Left thigh lucency: visualiized on CT imaging of pelvis.  
Patient asymptomatic.  Femur x-ray was performed
and pending at time of discharge.  Results to be communicated in 
future letter to PCP.

TRANSITIONAL ISSUES:
1.  outpatient echocardiogram to complete syncope work-up
2.  repeat chest CT in 6 months to monitor right middle lobe 
pulmonary nodules
3.  f/u with PCP for further microcytic anemia work-up
4.  PENDING STUDIES AT TIME OF DISCHARGE
5.  Please check H. pylori as outpatient

### ___ Blood culture x 1 set: NGTD, final PENDING
### ___ Urine culture: NGTD, final PENDING
 
Medications on Admission:
NoneThe Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Abdominal Pain
Microcytic Anemia
Pulmonary Nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital after an episode of syncope 
("passing out").  We suspect this is partly due to "dehydration" 
or volume depletion, leading to orthostatic syncope, in the 
setting of inadequate oral intake from recent long road trip, 
working-out at gym and use of sauna at gym.  We also suspect 
that you may have a sensitive nervous system, leading to 
vasovagal (neurogenic) syncope, which could have been triggered 
by eating (post-prandial) or abdominal pain.  You had an 
extensive work-up at ___, with CT scan showing no evidence of 
blood clot in lungs (pulmonary embolism), aortic rupture 
(dissection), bowel or stomach perforation.  EKG and blood tests 
showed no evidence of heart attack.  You were monitored on the 
heart monitor with no abnormalities found.  We recommend an 
outpatient echocardiogram by your PCP to complete your cardiac 
syncope work-up. We suspect you may have inflammation of your 
stomach (gastritis) or recurrent peptic ulcer disease.  We 
recommend discussing with your PCP the need for an outpatient 
for an EGD.  You also had some lesions in your right lung, and 
in the context of your smoking history, you will need a 
follow-up CT scan in 6 months to monitor these lung nodules.  
You also were noted to have a mild anemia, and your iron levels 
were sent, which were normal.  There was an irregular finding on 
your left thigh bone (femur), so an X-ray was obtained for 
further evaluation, which was pending at time of discharge.
 
Followup Instructions:
___